US07414063B2
Preparation of 1-Bromo-4-(2,2-diethoxy-ethoxymethyl)-benzene
Sodium bis(trimethylsilyl)amide (12.1 mL, 1 N in THF) is added to a stirred solution of 4-bromo-benzylalcohol (2.05 g, 11.0 mmol) in dry DMF (7 mL) at ambient temperature. The mixture is stirred for 5 min before it is treated with bromoacetaldehyde diethyl acetal (1.99 mL, 13.2 mmol). The resultant mixture is allowed to stir at ambient temperature for 20 hours. Ethyl acetate (60 mL) and water (60 mL) are added to the mixture. The organic layer is separated, washed with half-saturated brine, dried, filtered and concentrated. After MPLC separation on silica (gradient 0-8% ethyl acetate in hexane), 1.86 g (56% yield) title compound is obtained as colorless oil.

reactant | Sodium bis(trimethylsilyl)amide | 1 N, 12.1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4-bromo-benzylalcohol | 11.0 mmol, 2.05 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | bromoacetaldehyde diethyl acetal | 13.2 mmol, 1.99 mL | C(C)OC(CBr)OCC | C6H13BrO2
reactant | Ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | water | 60 mL | O | H2O
product | 1-Bromo-4-(2,2-diethoxy-ethoxymethyl)-benzene | 1.86 g, 56% yield | BrC1=CC=C(C=C1)COCC(OCC)OCC | C13H19BrO3
